US07902193B2
(f) 4-(4-Amino-pyridin-2-ylmethyl)-2H-phthalazin-1-one (20)
A suspension of 3-(4-nitro-pyridin-2-ylmethylene)-3H-isobenzofuran-1-one (0.67 g, 2.5 mmol) in hydrazine monohydrate (0.25 g, 5.0 mmol) was heated to 90° C. for 1 hour and then cooled to room temperature. Ethanol (5 mL) added, followed by ammonium chloride (0.16 g, 3.0 mmol) and iron powder (0.28 g, 5.0 mmol), the mixture was then heated to 90° C. for 3 hours. The reaction mixture was filtered hot through celite which was washed with ethyl acetate (20 mL). The filtered was concentrated in vacuo and then diluted with ethyl acetate (10 mL) washed with brine (10 mL), dried over magnesium, sulphate and dried in vacuo to afford the title cpd as a pale yellow powder. Single peak in LC-MS analysis, (0.20 g, 31% yield) requiring no further purification, m/z (LC-MS, ESP), RT=1.58 (M+H) 253;

reactant | 3-(4-nitro-pyridin-2-ylmethylene)-3H-isobenzofuran-1-one | 2.5 mmol, 0.67 g | [N+](=O)([O-])C1=CC(=NC=C1)C=C1OC(C2=CC=CC=C12)=O | C14H8N2O4
reactant | hydrazine monohydrate | 5.0 mmol, 0.25 g | O.NN
reactant | ammonium chloride | 3.0 mmol, 0.16 g | [Cl-].[NH4+]
catalyst | iron | 5.0 mmol, 0.28 g | [Fe] | Fe
solvent | Ethanol | 5 mL | C(C)O | C2H6O
product | 4-(4-Amino-pyridin-2-ylmethyl)-2H-phthalazin-1-one | 31% yield | NC1=CC(=NC=C1)CC1=NNC(C2=CC=CC=C12)=O | C14H12N4O
